US09034874B2
b) 1-cyclobutylpiperazine hydrochloride
To the mixture of tert-butyl 4-cyclobutylpiperazine-1-carboxylate (48 g, 200 mmol) in MeOH (100 mL) was added 2.0 M HCl in MeOH (400 mL) carefully at 0° C. The mixture was stirred at rt for 5 h, concentrated under reduced pressure to afford the desired compound 1-cyclobutylpiperazine hydrochloride (35 g, 82%) [LCMS: Rt=0.94 min, m/z 141.3 (M+H)+].

reactant | tert-butyl 4-cyclobutylpiperazine-1-carboxylate | 200 mmol, 48 g | C1(CCC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H24N2O2
reactant | HCl | 2.0 M | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 400 mL | CO | CH4O
product | 1-cyclobutylpiperazine hydrochloride | 35 g, 82% | Cl.C1(CCC1)N1CCNCC1 | InChI=1S/C8H16N2.ClH/c1-2-8(3-1)10-6-4-9-5-7-10;/h8-9H,1-7H2;1H
